US07312233B2
7-Amino-6-chloro-2H-benzo[b][1,4]oxazin-3(4H)-one
Stannous chloride dihydrate (30 g, 0.13 mol) was added in portion to a solution of 6-chloro-7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (6.7 g, 0.026 mol) in DMF (100 mL) with ice bath cooling. The mixture was allowed to warm to room temperature and was then stirred overnight. EtOAc (300 mL) and MeOH (300 mL) were added to the reaction mixture, Et3N was added until pH>8 and the resulting suspension was filtered through celite. The solvent was removed under vacuum and the residue was suspended in water, extracted with EtOAc, dried (Na2SO4), filtered and concentrated under vacuum. The residue was triturated with ether to give the product (2.5 g, 45%) as a yellow solid.

reactant | 6-chloro-7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.026 mol, 6.7 g | ClC1=CC2=C(OCC(N2)=O)C=C1[N+](=O)[O-] | C8H5ClN2O4
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
reactant | MeOH | 300 mL | CO | CH4O
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 7-Amino-6-chloro-2H-benzo[b][1,4]oxazin-3(4H)-one | 2.5 g, 45% | NC=1C(=CC2=C(OCC(N2)=O)C1)Cl | C8H7ClN2O2
